US08980888B2
<Step 1> Synthesis of 1-methyl-4-(6-methylpyridin-2-yl)-1H-pyrazole-5-carbonyl chloride
Oxalyl chloride (0.85 ml) was added to a mixed solution of methylene chloride (5 ml) and N,N-dimethylformamide (5 μl) containing the 1-methyl-4-(6-methylpyridin-2-yl)-1H-pyrazole-5-carboxylic acid (210 mg) obtained in (Example 3.3) <Step 1>, and the obtained mixture was then stirred for 2 hours. Thereafter, the reaction solution was concentrated under reduced pressure to obtain a crude product (230 mg) of the title compound in the form of an orange solid.

reactant | Oxalyl chloride | 0.85 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
reactant | 1-methyl-4-(6-methylpyridin-2-yl)-1H-pyrazole-5-carboxylic acid | 210 mg | CN1N=CC(=C1C(=O)O)C1=NC(=CC=C1)C | C11H11N3O2
solvent | N,N-dimethylformamide | 5 μl | CN(C=O)C | C3H7NO
product | 1-methyl-4-(6-methylpyridin-2-yl)-1H-pyrazole-5-carbonyl chloride | 230 mg | CN1N=CC(=C1C(=O)Cl)C1=NC(=CC=C1)C | C11H10ClN3O
